Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived / Bee Sting Kit
 
Attending: ___
 
Chief Complaint:
Palpitations, SOB, Lightheadedness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with a hx of HTN, HLD, and previous hospitalization ___ 
years prior at ___ for rapid heart beat came in with chief 
complaint of palpitations and light headedness. Pt said she 
first had palpitations ___ years prior and was admitted to ___ 
where they monitored her for 24 hours and sent her home on an 
unknown dose of metoprolol. ___ prior to the current 
admission, the patient's metoprolol was discontinued. Pt 
remained asymptomatic, until a few months ago when the patient 
started to notice intermittent fluttering or palpitations that 
would resolve on their own. On the morning of admission the 
patient woke up and noticed rapid palpitations, SOB and 
lightheadedness. Pt thought she was having an asthamtic attack 
and took her albuterol inhaler that worsened her symptoms. Pt 
called ___ and they encouraged her to go to the ED. 
Pt reports that she has had episodes of lightheadedness over the 
past month. They were not necessarily associated with 
palpitations and often resolved quickly after she sat down for a 
second or two. She never had a syncopal episode.  
Pt denies, CP, Dyspnea, Diaphoresis, N/V, abd pain, Jaw/left arm 
pain, orthopnea, PND. Pt noted some lower extremity edema on the 
left, but related it to her new diagnosis of tendonitis of the 
left achilles tendon.  
EMS found rapid afib with 170s-200, BP in the ___. Got 25mg IV 
Diltiazem, HR in 120s on presentation to ED. In the ED, initial 
vitals were 97.4 117 ___ 98. CP and SOB had resolved 
completely. Got 10mg IV Dilt in ED, was in ___ for a period of 
time  
got 30mg PO DIlt now at 100-110, asymptomatic. troponin x1 was 
negative. Pt vitals prior to transfer were HR 100, BP 112/88 
RR17 100% 2L  

 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension  
2. OTHER PAST MEDICAL HISTORY:  
Asthma  
Breast Ca  

 
Social History:
___
Family History:
FAMILY HISTORY:  
Mother died of heart disease in her ___, father died of 
prostate Ca, but had DM. Has HTN and DMII in her family.  

 
Physical Exam:
97.4 117 ___ 98  
VS: T=97.4 BP=112/83 HR=117 RR=18 O2 sat=98%2L  
GENERAL: WD obese woman in NAD. Oriented x3. Mood, affect 
appropriate and pleasant to speak with.  
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple, no JVP noted, no LAD, no thyromegaly.  
CARDIAC: Tachycardic, with intermittent pauses, normal S1, S2. 
No m/r/g. No thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c, with minimal pitting edema on LLE around 
ankle.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Radial 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Radial 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 10:45AM BLOOD WBC-4.5 RBC-4.41 Hgb-12.7 Hct-38.6# 
MCV-88 MCH-28.7 MCHC-32.8 RDW-13.7 Plt ___
___ 07:05AM BLOOD WBC-3.8* RBC-4.21 Hgb-11.7* Hct-37.3 
MCV-89 MCH-27.8 MCHC-31.4 RDW-13.5 Plt ___
___ 10:45AM BLOOD Neuts-57.0 ___ Monos-6.5 Eos-2.8 
Baso-1.6
___ 10:45AM BLOOD ___ PTT-25.2 ___
___ 10:45AM BLOOD Glucose-87 UreaN-20 Creat-0.8 Na-147* 
K-3.8 Cl-109* HCO3-28 AnGap-14
___ 07:05AM BLOOD Glucose-94 UreaN-16 Creat-0.8 Na-141 
K-4.4 Cl-104 HCO3-31 AnGap-10
___ 06:55AM BLOOD Calcium-9.5 Phos-3.5 Mg-2.1
___ 07:05AM BLOOD Calcium-10.1 Phos-3.6 Mg-2.1
___ 06:55AM BLOOD TSH-0.75

IMAGING
ECHO ___:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion.   
 
Brief Hospital Course:
___ woman with a hx of HTN, HLD, and previous hospitalization ___ 
years prior at ___ for rapid heart beat came in with chief 
complaint of palpitations, SOB and light headedness. On EKG 
looks like a a-fib and pt responded well to medication in ED.\  
.  
# RHYTHM: Pt appears to have a-fib on EKG. She was on metoprolol 
in past for what appears to be a similar condition and 
hospitalization at ___. She came to floor and was tachy into the 
140's. Considering she responded well to metoprolol well in the 
past we gave her lopressor 5mg IV push, in which she came down 
to the 90's and her BP was stable. Pt was put on metoprolol 50mg 
BID PO and monitored on telemetry.  Pt spontaneously converted 
back into NSR overnight between Day 1 and 2 of admission. The 
patient was started on aspirin 325mg PO Daily.  The risks and 
benefits of warfarin therapy for atrial fibrillation in a 
patient with a CHADS score of 1 and biatrial enlargement were 
discussed.  She preferred to be treated with aspirin therapy at 
this time and will continue to have this discussion with her PCP 
in the outpatient setting.     
.  
# Dyslipidemia: pt has documented dyslipidemia from at___ 
records. She has lost 35 pounds as per patient over the last 
couple of months, which has helped with her elevated cholesterol 
and she is also on dyslipidemic medications.  Pt was continued 
on her home medications.  
.  
# Hypertension: Pt BP not elevated on admission. Will continue 
to monitor BP q8hours and adjust meds if necessary.  Pt BP was 
stable throughout the course of her hospital stay and no 
adjustment to her medications were made.  Of note, she was 
started on metoprolol 50mg PO BID, which although minimal will 
have some BP effect. 
.  
# Asthma: Pt asymptomatic. Will give pt her flovent Daily as per 
her home meds. 
.  
# Breast Ca: pt had stage 1 breast Ca s/p lumpectomy and she 
said she has not had any recurrence since. She is on Arimidex, 
1mg PO daily.  
.
Pt was in normal sinus rhythm at the time of discharge, 
asymptomatic and medically stable for discharge with close 
follow up with her PCP.

 
Medications on Admission:
Flovent  
Albuterol INH  
Zocor  
HCTZ  
Arimidex  
Omeprazole  
VitD and Calcium  

 
Discharge Medications:
1. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
2. Bupropion HCl 150 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO BID (2 times a day).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
5. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation Q6hrs:PRN as needed for shortness of breath or 
wheezing.  
6. Anastrozole 1 mg Tablet Sig: One (1) Tablet PO daily () as 
needed for Breast Ca.  
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Calcium Carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO BID (2 times a day).  
9. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
11. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
atrial fibrillation

Secondary Diagnosis:
ASthma,
Breast Ca
Hyperlipidemia
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are being discharged from the hospital after being admitted 
to ___.  You were admitted for 
palpitations, shortness of breath, and lightheadedness and found 
to be in atrial fibrillation.  Since your hear rate was very 
fast, we gave you some metoprolol IV and then started you on 
metoprolol by mouth.  Your heart rate was controlled well and 
during the night you converted back into normal sinus rhythm.  
We started you on aspirin 325mg for stroke prevention as you are 
at a minimal increased risk for stroke.  It is worth discussing 
with your primary care physician whether or not you should be 
started on warfarin therapy.  We did not feel it was indicated 
at this time.  You are no longer symptomatic and have continued 
to be in Normal sinus rhythm.  You are stable and ready for 
discharge.  

The following medications were started:
aspirin 325mg by mouth daily
metoprolol 25mg by mouth two times a day

Please take your other medications as prescribed
 
Followup Instructions:
___